* Transient noise smoke deck
V1 in 0 PULSE(0 1 0 1n 1n 5n 10n)
R1 in out 1k
C1 out 0 1p
.OPTIONS TRAN_PROGRESS_INTERVAL=0
.TRANNOISE 1n 5n FMAX=1e6 SEED=123 SCALE=0.01
.END
